US04547514
N-[2-(Dimethylamino)ethyl]-3-phenoxy-1-pyrrolidinecarboxamide
A stirred solution of 0.088 mole of crude 3-phenoxy-1-pyrrolidinecarbonyl chloride in 100 ml of tetrahydrofuran was cooled to 0° C., treated with 7 g (0.088 mole) of pyridine (to remove any benzyl chloride contaminant), warmed to ambient temperature (1 hr.) and treated with 15.5 g (0.176 mole) of N,N-dimethylethylenediamine at a rapid drop rate. The reaction was slightly exothermic and after 2 hours, the mixture was filtered to remove a fine silvery precipitate (hydrochloride of the diamine) and concentrated in vacuo to a dark oil. The oil was partitioned between isopropyl ether and water, the isopropyl ether phase separated and the aqueous portion extracted with 100 ml of isopropyl ether. The isopropyl ether extracts were combined and concentrated in vacuo to give an amber oil, 5 g. The aqueous phase was extracted with 3×50 ml of benzene, the extracts combined, washed with 20 ml of water, dried over magnesium sulfate and concentrated in vacuo to a dark oil, 12 g. This residue partially crystallized overnight and was recrystallized 2 times with charcoal treatment, first from isopropyl ether/ligroin, then from isopropyl ether (cooled in a refrigerator) to give 4.1 g of white crystalline product which after drying at 64° C. under reduced pressure for 18 hours weighed 3.9 g, m.p. 72°-73° C. The residue from the original isopropyl extracts (5 g) was combined with the filtrate from above and upon reworking, gave an additional 4.3 g of product, m.p. 71°-73° C. The fraction with m.p. 72°-73° C. was submitted for elemental analysis and testing.

reactant | 3-phenoxy-1-pyrrolidinecarbonyl chloride | 0.088 mole | O(C1=CC=CC=C1)C1CN(CC1)C(=O)Cl | C11H12ClNO2
reactant | pyridine | 0.088 mole, 7 g | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylethylenediamine | 0.176 mole, 15.5 g | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[2-(Dimethylamino)ethyl]-3-phenoxy-1-pyrrolidinecarboxamide | 4.1 g | CN(CCNC(=O)N1CC(CC1)OC1=CC=CC=C1)C | C15H23N3O2
